US04883789
To a stirred solution of 280 mL (36.5 g, 0.28 mole) of a 1.0 M solution of vinylmagnesium bromide in tetrahydrofuran diluted with 250 mL of dry tetrahydrofuran under a nitrogen atmosphere was slowly added 60 g (0.28 mole) of 4-fluoro-3-phenoxybenzaldehyde. Upon completion of addition the reaction mixture was allowed to cool to room temperature and was stirred for three hours. Aqueous 10% hydrochloric acid was added, and the mixture was then extracted with diethyl ether. The ether extract was separated, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, leaving 72.0 g of 1-(4-fluoro-3- phenoxyphenyl)-2-propen-1-ol as a brown liquid. The nmr spectrum was consistent with the proposed structure.

reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | 4-fluoro-3-phenoxybenzaldehyde | 0.28 mole, 60 g | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 1-(4-fluoro-3- phenoxyphenyl)-2-propen-1-ol | 72.0 g | FC1=C(C=C(C=C1)C(C=C)O)OC1=CC=CC=C1 | C15H13FO2
